US09260414B2
{(S)-1-[(S)-2-(4-{5′-Fluoro-4′-[(6-fluoro-pyridine-3-carbonyl)-amino]-2′-trifluoromethyl-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester
To a solution of ((S)-1-{(S)-2-[4-(4′-amino-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (128 mg, 0.234 mmol; Preparation 39) in DCM (3 mL, 47 mmol) and DMA (0.3 mL, 3 mmol) was added 2-fluoropyridine-5-carbonyl chloride (37 mg, 0.234 mmol), and the resulting solution was stirred at RT overnight. The reaction mixture was concentrated by rotary evaporation to give the monoHCl salt of the title intermediate as a brownish oil (163 mg), which was used without further purification. (m/z): [M+H]+ calcd for C33H31F5N6O4 671.23 found 671.7.

reactant | ((S)-1-{(S)-2-[4-(4′-amino-5′-fluoro-2′-trifluoromethyl-biphenyl-4-yl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.234 mmol, 128 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)N)C(F)(F)F)=O | C27H29F4N5O3
reactant | DCM | 47 mmol, 3 mL | C(Cl)Cl | CH2Cl2
reactant | DMA | 3 mmol, 0.3 mL | CC(=O)N(C)C | C4H9NO
reactant | 2-fluoropyridine-5-carbonyl chloride | 0.234 mmol, 37 mg | FC1=NC=C(C=C1)C(=O)Cl | C6H3ClFNO
product | {(S)-1-[(S)-2-(4-{5′-Fluoro-4′-[(6-fluoro-pyridine-3-carbonyl)-amino]-2′-trifluoromethyl-biphenyl-4-yl}-1H-imidazol-2-yl)-pyrrolidine-1-carbonyl]-2-methyl-propyl}-carbamic acid methyl ester | 163 mg | COC(N[C@@H](C(C)C)C(=O)N1[C@@H](CCC1)C=1NC=C(N1)C1=CC=C(C=C1)C1=C(C=C(C(=C1)F)NC(=O)C=1C=NC(=CC1)F)C(F)(F)F)=O | C33H31F5N6O4
